US08071592B2
(c) 6-Chloro-4-(2-propen-1-yl)-1,2,4-benzotriazin-3(4H)-one 1-oxide
6-Chloro-1,2,4-benzotriazin-3(4H)-one 1-oxide (700 mg, 3.544 mmol) was suspended in dry DMF (20 ml) under argon at rt, and the stirred suspension was treated with K2CO3 (1.614 mg, 11.695 mmol) and allyl iodide (0.43 ml, 4.607 mmol). It was then stirred at rt for 2 h before addition of further allyl iodide (0.86 ml, 9.214 mmol) and then the reaction was heated at 60° C. for 1 h before addition of water (100 ml). The mixture was then extracted with DCM (3×200 ml). The combined organic extracts were dried over anhydrous magnesium sulphate, filtered and evaporated under reduced pressure to give a yellow solid which was purified by column chromatography on silica with a 0-5% MeOH in DCM gradient to give the desired product as a light brown solid (472 mg, 56%).

reactant | 6-Chloro-1,2,4-benzotriazin-3(4H)-one 1-oxide | 3.544 mmol, 700 mg | ClC=1C=CC2=C(NC(N=[N+]2[O-])=O)C1 | C7H4ClN3O2
reactant | K2CO3 | 11.695 mmol, 1.614 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | allyl iodide | 4.607 mmol, 0.43 ml | C(C=C)I | C3H5I
reactant | allyl iodide | 9.214 mmol, 0.86 ml | C(C=C)I | C3H5I
reactant | water | 100 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 6-Chloro-4-(2-propen-1-yl)-1,2,4-benzotriazin-3(4H)-one 1-oxide | 472 mg, 56% | ClC=1C=CC2=C(N(C(N=[N+]2[O-])=O)CC=C)C1 | C10H8ClN3O2
